US08252935B2
a) 4-Methyl-2-{5-[1-(3-methyl-3H-benzotriazol-5-ylmethyl)-piperidin-3-yl]-4′-trifluoromethyl-biphenyl-3-yl}-pentanoic acid ethyl ester
To a solution of compound 33b, 4-Methyl-2-(5-piperidin-3-yl-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester (52.6 mg, 0.118 mmol) in CH3CN (5 ml) was added 5-(Bromomethyl)-1-methyl-1H-1,2,3-benzotriazole (40.0 mg, 0.18 mmol), diisopropylethylamine (41 μl, 0.24 mmol) and DMF)(0.3 ml) to solubolize. The reaction was microwaved at 130° C. for 40 minutes, then at 150° C. for 1 hour 10 min. The reaction was diluted with EtOAc and washed with brine, sat. NaHCO3, and brine, dried and filtered. Purification by silica gel chromatography (Isco) gave the desired product, (67 mg, 96%). Calcd for C33H39F3NO4 (M+H) 592.69, Found 593.4.

reactant | 4-Methyl-2-(5-piperidin-3-yl-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester | 0.118 mmol, 52.6 mg | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1CNCCC1)C1=CC=C(C=C1)C(F)(F)F)=O | C26H32F3NO2
reactant | 5-(Bromomethyl)-1-methyl-1H-1,2,3-benzotriazole | 0.18 mmol, 40.0 mg | BrCC1=CC2=C(N(N=N2)C)C=C1 | C8H8BrN3
reactant | diisopropylethylamine | 0.24 mmol, 41 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | DMF | CN(C)C=O | C3H7NO
solvent | CH3CN | 5 ml | CC#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-Methyl-2-{5-[1-(3-methyl-3H-benzotriazol-5-ylmethyl)-piperidin-3-yl]-4′-trifluoromethyl-biphenyl-3-yl}-pentanoic acid ethyl ester | 67 mg, 96% | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1CN(CCC1)CC1=CC2=C(N=NN2C)C=C1)C1=CC=C(C=C1)C(F)(F)F)=O | C34H39F3N4O2
